** sch_path: /foss/designs/inv_test.sch
.subckt INV_TEST VP GND IN OUT
*.PININFO VP:B GND:B IN:I OUT:O
M1 OUT IN GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1
M2 OUT IN VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1
.ends
